US08106070B2
N-methylmorpholine (0.2 mL, 1.8 mmol) was added to a solution of 1-(tert-butoxycarbonyl)-4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]proline (175 mg, 0.40 mmol), 1-amino-4,4-dimethylhexan-2-ol (58 mg, 0.40 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (92 mg, 0.48 mmol), and hydroxybenzotriazole (65 mg, 0.48 mmol) in dichloromethane (40 mL). After stirring at ambient temperature overnight, the reaction mixture was washed with saturated aqueous sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated in vacuo to afford tert-butyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}-pyrrolidine-1-carboxylate which was used in the subsequent step without further purification.

reactant | N-methylmorpholine | 1.8 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(tert-butoxycarbonyl)-4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]proline | 0.40 mmol, 175 mg | C(C)(C)(C)OC(=O)N1[C@](C(=O)O)(CC(C1)(F)F)CC1=CC=C(C=C1)C1=NC=C(C=C1)F | C22H23F3N2O4
reactant | 1-amino-4,4-dimethylhexan-2-ol | 0.40 mmol, 58 mg | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 0.48 mmol, 92 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 0.48 mmol, 65 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | tert-butyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}-pyrrolidine-1-carboxylate | FC1(CC(N(C1)C(=O)OC(C)(C)C)(C(=O)NCC(CC(CC)(C)C)O)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C30H40F3N3O4
